### PR TITLE
refactor(*): use `IsSelfInv` and `IsSelfNeg`

### PR DESCRIPTION
**Pull request by justus-springer**
Use the recently added `IsSelfInv` and `IsSelfNeg` to do some small refactors. In particular:

- In `Combinatorics/Additive/ApproximateSubgroup`, use `IsSelfInv`/`IsSelfNeg` in the definition of approximate subgroups. Proofs get slightly shorter.
- In `Geometry/Group/Growth/QuotientInter`, `Topology/Algebra/Group/OpenMapping` and `Topology/Algebra/Group/Pointwise`: Replace hypotheses of the form `A⁻¹ = A` and `∀ x ∈ s, x⁻¹ ∈ s` by `IsSelfInv`. Mainly a cosmetic change.
- `Topology/Algebra/OpenSubgroup`: Use `IsSelfNeg` in the definition of `IsTopologicalAddGroup.addNegClosureNhd`. This allows for a 5-line golf.

Generative AI was used to search Mathlib for possibilities of using `IsSelfInv`/`IsSelfNeg` and suggest refactors. I reviewed every line and did small tweaks.

- [ ] depends on: #43773

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Pointwise/Finset/SelfInv.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+
+variable {α : Type*} [DecidableEq α] [InvolutiveInv α] {s : Finset α}
+
+@[to_additive (attr := simp)]
+lemma isSelfInv_coe_iff : IsSelfInv (s : Set α) ↔ IsSelfInv s := by
+  simp [isSelfInv_iff, Set.ext_iff, Finset.ext_iff]
+
+@[to_additive]
+lemma isSelfInv_iff_forall_inv_mem : IsSelfInv s ↔ ∀ ⦃x⦄, x ∈ s → x⁻¹ ∈ s := by
+  simp only [← isSelfInv_coe_iff, _root_.isSelfInv_iff_forall_inv_mem, mem_coe]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Pointwise/Finset/SelfInv.lean:34]: Shouldn't `isSelfInv_iff_forall_inv_mem` be in the `Set` namespace?

Comment (justus-springer) [reply Mathlib/Algebra/Group/Pointwise/Finset/SelfInv.lean:34]: I agree, opened #43792
